US07501413B2
A solution of 850 mg (3.4 mmol) of 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one (prepared according to C. F. Bigge et al., patent application WO 2003045912) in 80 ml of THF was cooled to −78° C., treated dropwise with 4.8 ml of a 1M lithium bis(trimethylsilyl)amide-solution in THF and stirred for 30 min at 78° C. To this solution were added 839 mg (4.8 mmol) of (1R,5S,6S) 6-(4-methoxy-benzyloxymethyl)-3-oxa-bicyclo[3.1.0]hexan-2-one dissolved in 5 ml of THF. Stirring was continued at −78° C. for 1 hr and then for 3 hrs at RT. Pouring of the mixture into a 2M aqueous solution of HCl, extraction with AcOEt, drying of the combined organic phases over Na2SO4, filtration and evaporation of the solvent gave 1.2 g (77%) of (1S,2S,3S) 2-hydroxymethyl-3-(4-methoxy-benzyloxymethyl)-cyclopropanecarboxylic acid [2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenyl]-amide. Yellow semisolid. 453 (M+H)+.

reactant | 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one | 3.4 mmol, 850 mg | NC1=C(C=C(C=C1)N1C(C=CC=C1)=O)F | C11H9FN2O
reactant | lithium bis(trimethylsilyl)amide | 1M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | (1R,5S,6S) 6-(4-methoxy-benzyloxymethyl)-3-oxa-bicyclo[3.1.0]hexan-2-one | 4.8 mmol, 839 mg | COC1=CC=C(COC[C@H]2[C@@H]3COC([C@H]23)=O)C=C1 | C14H16O4
reactant | HCl | Cl | ClH
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | (1S,2S,3S) 2-hydroxymethyl-3-(4-methoxy-benzyloxymethyl)-cyclopropanecarboxylic acid [2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenyl]-amide | 1.2 g, 77% | FC1=C(C=CC(=C1)N1C(C=CC=C1)=O)NC(=O)[C@H]1[C@H]([C@@H]1COCC1=CC=C(C=C1)OC)CO | C25H25FN2O5
